US04742069
A suspension of 10 g of 2-isopropyl-3-methyl-1,2-thiazin-5(6H)-one 1,1-dioxide in 100 ml of methanol was reacted with ammonia in accordance with the procedure described in Example 1. The solution obtained was concentrated to dryness under reduced pressure and the solid residue was recrystallized from isopropanol. There were obtained 10.1 g of 4-amino-N-isopropyl-2-oxo-3-pentenesulfonamide in the form of colorless crystals, m.p. 119°-121°.

reactant | 2-isopropyl-3-methyl-1,2-thiazin-5(6H)-one 1,1-dioxide | 10 g | C(C)(C)N1S(CC(C=C1C)=O)(=O)=O | C8H13NO3S
reactant | ammonia | N | H3N
solvent | methanol | 100 ml | CO | CH4O
product | 4-amino-N-isopropyl-2-oxo-3-pentenesulfonamide | 10.1 g | NC(=CC(CS(=O)(=O)NC(C)C)=O)C | C8H16N2O3S
